US04607040
2-Dimethylaminoethanol (1.07 g.) was added dropwise to a suspension of sodium hydride (0.56 g. of a 50% w/w dispersion in mineral oil) in dimethylformamide (25 ml.) at 0°-5°. When all the hydrogen had evolved, 2-chloro-3-(4-fluorophenyl)quinoline (2.69 g.) was added and the mixture was stirred at ambient temperature for 16 hr. The mixture was then poured into ice-water (500 ml.) and extracted with ethyl acetate (5×100 ml.). The ethyl acetate extract was washed successively with water (50 ml.) and saturated brine (50 ml.), and then dried (MgSO4). The solvent was evaporated under reduced pressure and the residual oil was chromatographed on basic alumina (100 g.; Brockmann Grade III), eluted with increasing concentrations of ethyl acetate in petroleum ether. The eluate obtained with 10% v/v ethyl acetate in petroleum ether was evaporated. The residual oil was dissolved in diethyl ether (100 ml.), and ethereal hydrogen chloride was added until precipitation was complete. The mixture was filtered and the solid residue was crystallised from methanol-ethyl acetate to give 2-(2-dimethylaminoethoxy)-3-(4-fluorophenyl)quinoline hydrochloride, m.p. 168°-171°.

reactant | 2-Dimethylaminoethanol | 1.07 g | CN(CCO)C | C4H11NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-chloro-3-(4-fluorophenyl)quinoline | 2.69 g | ClC1=NC2=CC=CC=C2C=C1C1=CC=C(C=C1)F | C15H9ClFN
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(2-dimethylaminoethoxy)-3-(4-fluorophenyl)quinoline hydrochloride | Cl.CN(CCOC1=NC2=CC=CC=C2C=C1C1=CC=C(C=C1)F)C | InChI=1S/C19H19FN2O.ClH/c1-22(2)11-12-23-19-17(14-7-9-16(20)10-8-14)13-15-5-3-4-6-18(15)21-19;/h3-10,13H,11-12H2,1-2H3;1H
